.title Basic low pass filter circuit
.model filesrc filesource (file="__INPUT_FILE__" amploffset=[0] amplscale=[0.0005]
+                           timeoffset=0 timescale=1
+                           timerelative=false amplstep=false)

a1 %v([in]) filesrc

R1 in 1 1k
C1 1 0 24e-6

.tran 100u 5
.save all
.end
